current-steering dac 6-bit

*.option gmin=1e-19 reltol=200u abstol=100f vntol=100n seed=2

.param mc_mm_switch = 1
.param vdd = 1.5

vdd vdd 0 dc vdd
xdac1 vdd 0 b16 b15 b14 b13 b12 b11 bb16 bb15 bb14 bb13 bb12 bb11 outp1 outn1 dac
xdac2 vdd 0 b26 b25 b24 b23 b22 b21 bb26 bb25 bb24 bb23 bb22 bb21 outp2 outn2 dac
rlp1 outp1 0 0.02
rln1 outn1 0 0.02
rlp2 outp2 0 0.02
rln2 outn2 0 0.02
e1 out1 0 outp1 outn1 10
rl1 out1 0 1k
e2 out2 0 outp2 outn2 10
rl2 out 0 1k

.subckt pfet d g s b
.param mfac = 1
xm d g s b sky130_fd_pr__pfet_01v8_lvt l=350n w=550n as=145.75f ad=145.75f ps=1.63u pd=1.63u mult=mfac m=mfac
.ends

.subckt cell vdd vss bp b bb outp outn weight=1
c1 d1 vdd '20f*weight'
c2 bp vdd '20f*weight'
xm1 d1 bp vdd vdd pfet mfac=weight
xm2p outp bb d1 vdd pfet mfac=weight
xm2n outn b d1 vdd pfet mfac=weight
.ends

.subckt dac vdd vss b6 b5 b4 b3 b2 b1 bb6 bb5 bb4 bb3 bb2 bb1 outp outn
xmb1 bp bp vdd vdd pfet mfac=1
xmb2 0 0 bp vdd pfet mfac=1
xdc1 vdd 0 bp b1 bb1 outp outn cell weight=1
xdc2 vdd 0 bp b2 bb2 outp outn cell weight=2
xdc3 vdd 0 bp b3 bb3 outp outn cell weight=4
xdc4 vdd 0 bp b4 bb4 outp outn cell weight=8
xdc5 vdd 0 bp b5 bb5 outp outn cell weight=16
xdc6 vdd 0 bp b6 bb6 outp outn cell weight=32
.ends

.param
+ sky130_fd_pr__pfet_01v8_lvt__ajunction_mult = 9.9626e-1
+ sky130_fd_pr__pfet_01v8_lvt__pjunction_mult = 1.0009e+0
+ sky130_fd_pr__pfet_01v8_lvt__wkvth0_diff = .73e-6
+ sky130_fd_pr__pfet_01v8_lvt__lkvth0_diff = 0.0
+ sky130_fd_pr__pfet_01v8_lvt__wlod_diff = .0e-6
+ sky130_fd_pr__pfet_01v8_lvt__ku0_diff = 5.9e-8
+ sky130_fd_pr__pfet_01v8_lvt__lku0_diff = 0.0
+ sky130_fd_pr__pfet_01v8_lvt__wku0_diff = 0.0
+ sky130_fd_pr__pfet_01v8_lvt__kvsat_diff = .0e-6
+ sky130_fd_pr__pfet_01v8_lvt__kvth0_diff = 1.76e-8

.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope=3.689e-09
.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope1=1.489e-08
.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope2=1.689e-08
.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope3=2.389e-08
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope=1.389e-08
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope1=9.789e-09
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope2=1.089e-08
.param sky130_fd_pr__pfet_01v8_lvt__lint_slope=0
.param sky130_fd_pr__pfet_01v8_lvt__wint_slope=0
.param sky130_fd_pr__pfet_01v8_lvt__nfactor_slope=0.0
.param sky130_fd_pr__pfet_01v8_lvt__voff_slope=0.0

.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope_spectre = 0.0
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope_spectre = 0.0
.param sky130_fd_pr__pfet_01v8_lvt__voff_slope_spectre = 0.0
.param sky130_fd_pr__pfet_01v8_lvt__nfactor_slope_spectre = 0.0

.subckt  sky130_fd_pr__pfet_01v8_lvt d g s b
+ 
.param  l = 1 w = 1 nf = 1.0 ad = 0 as = 0 pd = 0 ps = 0 nrd = 0 nrs = 0 sa = 0 sb = 0 sd = 0 mult = 1
msky130_fd_pr__pfet_01v8_lvt d g s b sky130_fd_pr__pfet_01v8_lvt__model l = {l} w = {w} nf = {nf} ad = {ad} as = {as} pd = {pd} ps = {ps} nrd = {nrd} nrs = {nrs} sa = {sa} sb = {sb} sd = {sd}
.model sky130_fd_pr__pfet_01v8_lvt__model pmos
* DC IV MOS Parameters
+ lmin = 3.5e-07 lmax = 5e-07 wmin = 5.5e-07 wmax = 1.0e-6
+ level = 54.0
+ tnom = 30.0
+ version = 4.5
+ toxm = 4.23e-9
+ xj = 1.5e-7
+ lln = 1.0
+ lwn = 1.0
+ wln = 1.0
+ wwn = 1.0
+ lint = 2.8e-9
+ ll = 0.0
+ lw = 0.0
+ lwl = 0.0
+ wint = 7.476e-9
+ wl = 0.0
+ ww = 0.0
+ wwl = 0.0
+ xl = 0.0
+ xw = 0.0
+ mobmod = 0.0
+ binunit = 2.0
+ dwg = -7.916e-9
+ dwb = 0.0
* BSIM4 - Model Selectors
+ igcmod = 0.0
+ igbmod = 0.0
+ rgatemod = 0.0
+ rbodymod = 1.0
+ trnqsmod = 0.0
+ acnqsmod = 0.0
+ fnoimod = 1.0
+ tnoimod = 1.0
+ permod = 1.0
+ geomod = 0.0
+ rdsmod = 0.0
+ tempmod = 0.0
+ lintnoi = 0.0
+ vfbsdoff = 0.0
+ lambda = 0.0
+ vtl = 0.0
+ lc = 5.0e-9
+ xn = 3.0
+ rnoia = 0.69
+ rnoib = 0.34
+ tnoia = 25000000.0
+ tnoib = 0.0
* BSIM4 - Process Parameters
+ epsrox = 3.9
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__toxe_slope_spectre)
+ toxe = {4.23e-09+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(4.23e-09*(sky130_fd_pr__pfet_01v8_lvt__toxe_slope3/sqrt(l*w*mult)))}
+ dtox = 0.0
+ ndep = 1.7000000000000000e+17
+ nsd = 1.0e+20
+ rshg = 0.1
+ rsh = 1.0
* Threshold Voltage Parameters
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__vth0_slope_spectre)
+ vth0 = {-1.782289999e-01+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(sky130_fd_pr__pfet_01v8_lvt__vth0_slope1/sqrt(l*w*mult))} lvth0 = -7.222604304e-08 wvth0 = -1.348985490e-07 pvth0 = 4.954643417e-14
+ k1 = 0.64774
+ k2 = -4.695523411e-02 lk2 = 4.071953082e-09 wk2 = -1.048260450e-08 pk2 = 6.073815561e-15
+ k3 = 3.39
+ dvt0 = 2.4422
+ dvt1 = 0.16136
+ dvt2 = 0.026237
+ dvt0w = 0.5
+ dvt1w = 1928100.0
+ dvt2w = -0.032
+ w0 = 1.0e-8
+ k3b = 1.0
* NEW BSIM4 Parameters for Level 54
+ phin = 0.0
+ lpe0 = 0.0
+ lpeb = 0.0
+ vbm = -3.0
+ dvtp0 = 0.0
+ dvtp1 = 0.0
* Mobility Parameters
+ vsat = 1.729186447e+05 lvsat = -1.976658997e-02 wvsat = -6.300395056e-02 pvsat = 1.733533569e-8
+ ua = -3.076683126e-09 lua = 6.229870963e-17 wua = 2.386014056e-16 pua = -1.060940094e-22
+ ub = 2.612994519e-18 lub = 1.905974519e-25 wub = -8.036427329e-26 pub = 6.115694775e-32
+ uc = 1.607392219e-11 luc = 1.380586924e-17 wuc = 4.015260322e-17 puc = -1.359944388e-23
+ rdsw = 484.7
+ prwb = 0.1
+ prwg = 0.052
+ wr = 1.0
+ u0 = 9.335311068e-04 lu0 = 6.553868693e-10 wu0 = 1.170785149e-09 pu0 = -4.005819962e-16
+ a0 = 1.1627
+ keta = -1.727227166e-02 lketa = 1.876040360e-09 wketa = 2.914551807e-09 pketa = -1.003771642e-15
+ a1 = 0.0
+ a2 = 0.46703705
+ ags = -7.446080985e-01 lags = 3.523067795e-07 wags = 9.865926523e-07 pags = -3.470390885e-13
+ b0 = 7.894683512e-07 lb0 = -4.041704517e-13 wb0 = -7.386199123e-13 pb0 = 3.251555372e-19
+ b1 = -1.841702328e-06 lb1 = 7.894705525e-13 wb1 = 1.711615945e-12 pb1 = -6.725137054e-19
* BSIM4 - Mobility Parameters
+ eu = 1.67
+ rdswmin = 0.0
+ rdw = 0.0
+ rdwmin = 0.0
+ rsw = 0.0
+ rswmin = 0.0
* Subthreshold Current Parameters
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__voff_slope_spectre)
+ voff = {-0.1819+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(sky130_fd_pr__pfet_01v8_lvt__voff_slope/sqrt(l*w*mult))}
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__nfactor_slope_spectre)
+ nfactor = {2.5373+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(sky130_fd_pr__pfet_01v8_lvt__nfactor_slope/sqrt(l*w*mult))}
+ up = 0.0
+ ud = 0.0
+ lp = 1.0
+ tvfbsdoff = 0.0
+ tvoff = 0.0
+ cit = -6.393105e-11
+ cdsc = 2.8125e-7
+ cdscb = 1.0e-4
+ cdscd = 1.0e-10
+ eta0 = 0.2
+ etab = -0.00025
+ dsub = 1.0
* BSIM4 - Sub-threshold parameters
+ voffl = 0.0
+ minv = 0.0
* Rout Parameters
+ pclm = 0.030097
+ pdiblc1 = 0.0
+ pdiblc2 = -2.703778191e-03 lpdiblc2 = 9.640935270e-09 wpdiblc2 = -4.489995143e-08 ppdiblc2 = 3.814731091e-14
+ pdiblcb = -0.025
+ drout = 0.43496
+ pscbe1 = 800000000.0
+ pscbe2 = 8.6797e-9
+ pvag = 0.0
+ delta = 1.509909476e-01 ldelta = -2.800512739e-08 wdelta = -6.545113965e-08 pdelta = 1.652434138e-14
+ alpha0 = 5.0449517e-13
+ alpha1 = -4.0583656e-18
+ beta0 = 6.2016506
* BSIM4 - Rout Parameters
+ fprout = 0.0
+ pdits = 0.0
+ pditsl = 0.0
+ pditsd = 0.0
* BSIM4 - Gate Induced Drain Leakage Model Parameters
+ agidl = 0.0
+ bgidl = 2300000000.0
+ cgidl = 0.5
+ egidl = 0.8
* BSIM4 - Gate Leakage Current Parameters
+ aigbacc = 0.43
+ bigbacc = 0.054
+ cigbacc = 0.075
+ nigbacc = 1.0
+ aigbinv = 0.35
+ bigbinv = 0.03
+ cigbinv = 0.006
+ eigbinv = 1.1
+ nigbinv = 3.0
+ aigc = 0.43
+ bigc = 0.054
+ cigc = 0.075
+ nigc = 1.0
+ aigsd = 0.43
+ bigsd = 0.054
+ cigsd = 0.075
+ dlcig = 0.0
+ poxedge = 1.0
+ pigcd = 1.0
+ ntox = 1.0
+ toxref = 4.23e-9
* Temperature Effects Parameters
+ kt1 = -7.924373247e-01 lkt1 = 6.087865133e-08 wkt1 = 1.276072598e-07 pkt1 = -4.798161401e-14
+ kt2 = 1.626020472e-01 lkt2 = -8.539089664e-08 wkt2 = -1.326603614e-07 pkt2 = 4.568822846e-14
+ at = -4.433949910e+04 lat = 2.869593405e-02 wat = 1.874991537e-01 pat = -6.980799686e-8
+ ute = -8.127409949e-01 lute = 2.067746586e-07 wute = 5.193692717e-07 pute = -1.788707772e-13
+ ua1 = 1.972651465e-09 lua1 = -4.303214166e-16 wua1 = -6.685325589e-16 pua1 = 2.302426133e-22
+ ub1 = -2.955731024e-18 lub1 = 9.378910967e-25 wub1 = 1.375089403e-24 pub1 = -4.735807904e-31
+ uc1 = -1.642735167e-10 luc1 = 6.690779914e-17 wuc1 = 1.039456565e-16 puc1 = -3.579888411e-23
+ kt1l = 0.0
+ prt = 0.0
* BSIM4 - High Speed RF Model Parameters
+ xrcrg1 = 12.0
+ xrcrg2 = 1.0
+ rbpb = 50.0
+ rbpd = 50.0
+ rbps = 50.0
+ rbdb = 50.0
+ rbsb = 50.0
+ gbmin = 1.0e-12
* BSIM4 - Flicker and Thermal Noise Parameters
+ noia = 3.0e+41
+ noib = 0.0
+ noic = 0.0
+ em = 41000000.0
+ af = 1.0
+ ef = 0.88
+ kf = 0.0
+ ntnoi = 1.0
* BSIM4 - Layout Dependent Parasitic Model Parameters
+ dmcg = 0.0
+ dmcgt = 0.0
+ dmdg = 0.0
+ xgw = 0.0
+ xgl = 0.0
+ ngcon = 1.0
* Diode DC IV Parameters
* BSIM4 - Diode DC IV parameters
+ diomod = 1.0
+ njs = 1.3632
+ jss = 2.1483e-5
+ jsws = 1.4472e-10
+ xtis = 5.2
+ bvs = 12.69
+ xjbvs = 1.0
+ ijthsrev = 0.1
+ ijthsfwd = 0.1
* Diode and FET Capacitance Parameters
+ tpb = 0.001671
+ tpbsw = 0.001246
+ tpbswg = 0.0
+ tcj = 0.0012407
+ tcjsw = 0.00037357
+ tcjswg = 2.0e-12
+ cgdo = 2.0e-11
+ cgso = 2.0e-11
+ cgbo = 1.0e-13
+ capmod = 2.0
+ xpart = 0.0
+ cgsl = 0.0
+ cgdl = 0.0
+ cf = 0.0
+ clc = 7.0e-8
+ cle = 0.492
+ dlc = -1.2e-8
+ dwc = 0.0
+ vfbcv = -1.0
+ acde = 0.44
+ moin = 8.7
+ noff = 2.6123
+ voffcv = 0.112
+ ngate = 1.0e+23
+ lwc = 0.0
+ llc = 0.0
+ lwlc = 0.0
+ wlc = 0.0
+ wwc = 0.0
+ wwlc = 0.0
* BSIM4 - FET and Diode capacitance parameters
+ ckappas = 0.6
+ cjs = 0.0007653568198
+ mjs = 0.3362
+ pbs = 0.6587
+ cjsws = 9.1602368e-11
+ mjsws = 0.2659
+ pbsws = 0.7418
+ cjswgs = 2.39155046e-10
+ mjswgs = 0.9274
+ pbswgs = 1.4338
* Stress Parameters
+ saref = 1.44e-6
+ sbref = 1.44e-6
+ wlod = {0+sky130_fd_pr__pfet_01v8_lvt__wlod_diff}
+ kvth0 = {0+sky130_fd_pr__pfet_01v8_lvt__kvth0_diff}
+ lkvth0 = {0+sky130_fd_pr__pfet_01v8_lvt__lkvth0_diff}
+ wkvth0 = {0+sky130_fd_pr__pfet_01v8_lvt__wkvth0_diff}
+ pkvth0 = 0.0
+ llodvth = 0.0
+ wlodvth = 1.0
+ stk2 = 0.0
+ lodk2 = 1.0
+ lodeta0 = 1.0
+ ku0 = {0+sky130_fd_pr__pfet_01v8_lvt__ku0_diff}
+ lku0 = {0+sky130_fd_pr__pfet_01v8_lvt__lku0_diff}
+ wku0 = {0+sky130_fd_pr__pfet_01v8_lvt__wku0_diff}
+ pku0 = 0.0
+ llodku0 = 0.0
+ wlodku0 = 1.0
+ kvsat = {0+sky130_fd_pr__pfet_01v8_lvt__kvsat_diff}
+ steta0 = 0.0
+ tku0 = 0.0
.ends sky130_fd_pr__pfet_01v8_lvt

